US04329347
5-(2-Hydroxy-3-phenylsulfinyl-propoxy)-3,4-dihydro-carbostyril
Prepared analogous to Example 2 from 5-(2-hydroxy-3-phenylmercapto-propoxy)-3,4-dihydro-carbostyril and hydrogen peroxide.

reactant | 5-(2-hydroxy-3-phenylmercapto-propoxy)-3,4-dihydro-carbostyril | OC(COC1=C2CCC(NC2=CC=C1)=O)CSC1=CC=CC=C1 | C18H19NO3S
reactant | hydrogen peroxide | OO | H2O2
product | 5-(2-Hydroxy-3-phenylsulfinyl-propoxy)-3,4-dihydro-carbostyril | OC(COC1=C2CCC(NC2=CC=C1)=O)CS(=O)C1=CC=CC=C1 | C18H19NO4S
